US03985804
Preparation of 2'-ethoxy-2-methylbenzanilide
A 13.6 g (0.1 mol) portion of o-methylbenzoic acid and 13.7 g of o-ethoxyaniline were dissolved in 200 ml of acetone. A 4.7 g (0.033 mol) amount of phosphorus pentoxide was gradually added to the prepared solution at 30° - 40° C. After the addition, the reaction mixture was refluxed for 3 hours with stirring. The acetone was removed and the residual product was poured into water and was extracted with toluene. The toluene layer was dried over anhydrous sodium sulfate and the toluene was removed to obtain 24.1 g (94.5%) of a clear pink liquid, having a boiling point of 148° C/0.04 mm Hg and nD20 of 1.5929.

reactant | o-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | o-ethoxyaniline | 13.7 g | C(C)OC1=C(N)C=CC=C1 | C8H11NO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2'-ethoxy-2-methylbenzanilide | 24.1 g, 94.5% | C(C)OC1=C(NC(C2=C(C=CC=C2)C)=O)C=CC=C1 | C16H17NO2
